Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
losartan / lisinopril
 
Attending: ___
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with PMH of copd, CAD, hypertension presented outside
hospital ED for lip swelling, found to have ___ so 
transferred
to ___ ED, being admitted for ___.

___ she had her first dose of losartan, and noticed some 
lip
swelling, with no difficulty breathing, abdominal pain, GI upset
or rash. This prompted her to seek evaluation at the emergency
room at ___, where she was found to have an ___
baseline Cr is 0.6->2.3), and blood pressure in high 90's/60's,
and was told she had a UTI. She received 1 dose of CTX at 1800,
1L NS, and was transferred to ___ ED for management of ___.

In the ED, initial VS were: 98.5 77 107/47 17 95% RA 
Exam notable for: anxious affect
Labs showed: 
- Cr 1.4, bicarb 13, whole blood K 5, lactate 1.1
- UA non infectious
Imaging showed: none
Consults: none
Patient received: 1mg po lorazepam, albuterol and ipratropium
neb, IV methylpred, 1LNS
Transfer VS were: 98.7 80 164/142 17 100% RA 

On arrival to the floor, patient reports she had been feeling
unwell and weak for the past three days, with runny nose, cough
and congestion, decreased appetite and poor food and water
intake; this is now improved. She had a history of chronic 
cough,
for which her pulmonologist and primary care doctor suggested 
she
switch her ace to losartan. She did this as directed, taking her
last dose of lisinopril ___, then her first dose of losartan
___ after which she developed lip swelling. She feels much
improved with decreased lip swelling before arrival at ___.
 
Past Medical History:
COPD
CAD
HTN

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.4  115 / 70 82 20 99 RA 
GENERAL: NAD, sleepy but easily arousable
HEENT:  MMM, upper lip is swollen, poor dentition
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants,
EXTREMITIES: no  edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
VS: ___ 0748 Temp: 97.8 PO BP: 133/87 L Sitting HR: 65 RR:
16 O2 sat: 97% O2 delivery: RA 
GENERAL: NAD
HEENT:  MMM, no upper lip edema, poor dentition
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants,
EXTREMITIES: no edema, warm and well-perfused
NEURO: alert and grossly oriented, moving all 4 extremities
purposefully, face symmetric
 
Pertinent Results:
___ 07:27AM BLOOD Glucose-101* UreaN-22* Creat-0.9 Na-145 
K-5.1 Cl-109* HCO3-19* AnGap-17
___ 12:50PM BLOOD K-5.7*
___ 07:18AM BLOOD Glucose-160* UreaN-37* Creat-1.0 Na-145 
K-5.9* Cl-112* HCO3-17* AnGap-16
___ 01:15AM BLOOD Glucose-127* UreaN-47* Creat-1.4* Na-143 
K-5.7* Cl-112* HCO3-13* AnGap-___ with PMH of copd, CAD, hypertension presented outside 
hospital ED for lip swelling, incidentally found to have an 
prerenal ___ has improved with fluids.

ACUTE ISSUES:
===============
___
She came to the hospital after only drinking beer 3 days prior 
to admission and then having very little PO intake since that 
day. Her baseline Cr is 0.6 and was 2.3 at the OSH. After 1L 
fluids, improved to 1.4. Suspected the ___ was prerenal in 
etiology. AM Cr was 0.9.

#Angioedema
Upper lip was swollen after first losartan dose. Although 
angioedema is rare when associated with ARBs, it can happen and 
given she started the losartan one day after stopping lisinopril 
with no holiday, cannot distinguish what the cause was. She 
received methylprednisolone in the ED and will go home without 
lisinopril or losartan.

#Reported UTI
Apparently OSH ED UA was consistent with UTI. She has no 
symptoms. Unlikely her UA would clear in four hours. She was not 
treated at ___ for a UTI. It was reported she received one dose 
of CTX at OSH ED.

#HTN
Hypertensive in ED in the setting of agitation, normotensive on 
floor. Her home losartan is being held and she will be 
discharged only with her home carvedilol.

#COPD
No changes were made to her home regimen.

#CAD
No changes were made to her home regimen.

#GERD
No changes were made to her home regimen.

TRANSITIONAL ISSUES:
=====================
[] will need to follow-up with PCP regarding BP control after 
stopping losartan

CONTACT: daughter, ___, ___

 
___ on Admission:
.
1. Atorvastatin 80 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY 
7. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
8. Carvedilol 25 mg PO BID 
9. Omeprazole 20 mg PO DAILY 
10. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Carvedilol 25 mg PO BID  
5.  Cetirizine 10 mg PO DAILY  
6.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY  
7.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
8.  Omeprazole 20 mg PO DAILY  
9.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
angioedema
prerenal acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you!

WHY WERE YOU IN THE HOSPITAL?
- your lip was swollen after taking losartan
- you were dehydrated

WHAT HAPPENED WHILE YOU WERE HERE?
- you received fluids in your IV
- you received steroids to treat your lip swelling

WHAT TO DO ONCE YOU LEAVE?
- do not take lisinopril or losartan
- follow up with your primary care doctor

___ wishes,
Your ___ Team
 
Followup Instructions:
___